US04576629
3. Preparation of 5-amino-2-benzyloxy-1,3,4-thiadiazole
In a 250 ml round-bottom flask equipped with a mechanical stirrer were mixed (benzyloxythiocarbonyl)hydrazine and 2N sodium hydroxide (90 ml). This mixture was stirred vigorously and cooled to 0° C. A solution of cyanogen bromide (14.5 g, 0.137 mol) in methanol (60 ml) was added dropwise at a rate that kept the reaction temperature between about 0°-5° C. A precipitate formed. When the addition was complete, the reaction mixture was filtered and the residue was rinsed well with water and dried in vacuo. The product was recrystallized from methanol/water to give a white solid of 16.6 g, 58.5% yield with a m.p. of 173°-175° C.

reactant | (benzyloxythiocarbonyl)hydrazine | C(C1=CC=CC=C1)OC(=S)NN | C8H10N2OS
reactant | sodium hydroxide | 2N, 90 ml | [OH-].[Na+]
reactant | cyanogen bromide | 0.137 mol, 14.5 g | N#CBr | CBrN
solvent | methanol | 60 ml | CO | CH4O
product | 5-amino-2-benzyloxy-1,3,4-thiadiazole | 58.5% yield | NC1=NN=C(S1)OCC1=CC=CC=C1 | C9H9N3OS
